US08669266B2
(i) Piperazine-1,4-dicarboxylic acid tert-butyl ester cyclopropylmethyl ester
To a solution of 3.3 g triphosgene and 2 g Cyclopropyl-methanol in 40 ml dichloromethane were added 9.1 ml DIPEA dropwise at 0° C. After 1 h, 5.1 g Piperazine-1-carboxylic acid tert-butyl ester and 4.5 ml DIPEA in 7 ml were added at 0° C. The reaction mixture was allowed to warm to RT and stirred for 16 h. Excess triphosgene was destroyed by adding a solution of 2 g NaOH in 120 ml water and stirring for 2 h. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed with 1M aqueous hydrochloric acid, dried over MgSO4 and concentrated. The crude product thus obtained was purified was used in the next reaction step. Yield: 7.9 g.

reactant | triphosgene | 3.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Cyclopropyl-methanol | 2 g | C1(CC1)CO | C4H8O
reactant | DIPEA | 9.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Piperazine-1-carboxylic acid tert-butyl ester | 5.1 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DIPEA | 4.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Piperazine-1,4-dicarboxylic acid tert-butyl ester cyclopropylmethyl ester | C1(CC1)COC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C14H24N2O4
